US08008327B2
A mixture of 6-bromo-4-indazolecarboxylic acid methyl ester (2.0 g, 7.8 mmol), copper(I) iodide (0.4 g, 0.2 mmol), potassium carbonate (1.2 g, 8.5 mmol) and 4-fluoroiodobenzene (1.8 g, 8.5 mmol) was charged in a sealed tube at room temperature. The tube was evacuated and back-filled with argon, and DMF (10 mL) and rac-trans-N,N′-dimethylcyclohexane-1,2-diamine (0.20 g, 1.4 mmol) was added. The solution was stirred at 120° C. for 3 hours, cooled to room temperature, and diluted with water (30 mL) and ethyl acetate (50 mL). The organic layer was separated, washed with brine (10 mL) and dried over sodium sulfate. The solvent was removed in vacuo. The residue was purified by silica gel chromatography eluting with a gradient of 0-30% ethyl acetate in hexanes to afford 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester.

reactant | 6-bromo-4-indazolecarboxylic acid methyl ester | 7.8 mmol, 2.0 g | COC(=O)C=1C=2C=NNC2C=C(C1)Br | C9H7BrN2O2
reactant | potassium carbonate | 8.5 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoroiodobenzene | 8.5 mmol, 1.8 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | rac-trans-N,N′-dimethylcyclohexane-1,2-diamine | 1.4 mmol, 0.20 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | water | 30 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.2 mmol, 0.4 g | [Cu]I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=NN(C2C=C(C1)Br)C1=CC=C(C=C1)F | C15H10BrFN2O2
